US06310208B1
2 ml of 1N NaOH solution were added to a solution of 0.726 g (1.87 mmol) of methyl trans-[3-(4-bromo-3,5-dimethoxy-phenyl)-1-methyl-piperidin-4-yl]-acetate in 3 ml of ethanol and the mixture was stirred at 50° for 30 minutes. The solution was evaporated and the residue was dried in a high vacuum. The thus-obtained sodium salt was suspended in 5 ml of acetonitrile. After the addition of 278 mg (2 mmol) of potassium carbonate the suspension was treated at 0° with 0.913 ml (10 mmol) of phosphorus oxychloride and the mixture was subsequently stirred at 50° for 2 hours. Subsequently, the mixture was poured into 10 ml of water, adjusted to pH=12 with 28% NaOH and extracted three times with 15 ml of ethyl acetate. The organic phase was dried (Na2SO4), filtered and evaporated. Chromatography (silica gel, methylene chloride/methanol 95:5) yielded 0.385 g (58%) of trans-8-bromo-7,9-dimethoxy-2-methyl-1,3,4,4a,5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one, which was converted with HCl in methanol into the hydrochloride with m.p. 226-228°.

reactant | NaOH | 1N, 2 ml | [OH-].[Na+]
reactant | methyl trans-[3-(4-bromo-3,5-dimethoxy-phenyl)-1-methyl-piperidin-4-yl]-acetate | 1.87 mmol, 0.726 g | BrC1=C(C=C(C=C1OC)[C@@H]1CN(CC[C@H]1CC(=O)OC)C)OC | C17H24BrNO4
reactant | potassium carbonate | 2 mmol, 278 mg | C([O-])([O-])=O.[K+].[K+]
reactant | phosphorus oxychloride | 10 mmol, 0.913 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | trans-8-bromo-7,9-dimethoxy-2-methyl-1,3,4,4a,5,10b-hexahydro-2H-benzo[h]isoquinolin-6-one | 0.385 g, 58% | BrC=1C(=CC2=C(C(C[C@H]3CCN(C[C@H]23)C)=O)C1OC)OC | C16H20BrNO3
